US09062015B2
FS604: 1′-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]-1,4′-bipiperidinyl-3-ol
45 mg (0.42 mmol) of sodium carbonate are added to 50 mg (0.17 mmol) of 1′-(4-chloro-1,3,5-triazin-2-yl)-1,4′-bipiperidinyl-3-ol and 139 mg (0.42 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane in 3.2 ml of toluene/ethanol/water (3.2/3.2/1). The reaction mixture is degassed a number of times, and 19 mg (0.017 mmol) of tetrakis-(triphenylphosphine)palladium(0) are added under nitrogen atmosphere, the mixture is treated in an ultrasound bath for 10 min and subsequently heated at 90° C. for 5 h. Water is added to the reaction mixture, which is then extracted three times with ethyl acetate/ether. The combined organic phases are dried over Na2SO4 and evaporated. The crude product is purified by means of preparative HPLC.

reactant | sodium carbonate | 0.42 mmol, 45 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1′-(4-chloro-1,3,5-triazin-2-yl)-1,4′-bipiperidinyl-3-ol | 0.17 mmol, 50 mg | ClC1=NC(=NC=N1)N1CCC(CC1)N1CC(CCC1)O | C13H20ClN5O
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.42 mmol, 139 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
reactant | Water | O | H2O
solvent | toluene ethanol water | 3.2 ml | C1(=CC=CC=C1)C.C(C)O.O
product | 1′-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]-1,4′-bipiperidinyl-3-ol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=NC(=NC=N1)N1CCC(CC1)N1CC(CCC1)O)C | C27H39N5O
